US08937083B2
To a solution of methyl-(2-methyl-5-pyridin-3-yl-2H-pyrazol-3-yl)-amine (150 mg, 0.8 mmol) in ice-cold DCE (2 mL) under N2 was added a solution of phosgene in toluene (20%, 0.43 mL, 0.88 mmol). The ice bath was removed after 30 min, and the mixture was stirred at room temperature for 1 h and at reflux for 2 h. The mixture was cooled to room temperature and then more phosgene (0.86 mL, 1.76 mmol) was added. The mixture was stirred at reflux for 90 min and then cooled in an ice bath. To this was added a solution of 2-methylthioethylamine (80 mg, 0.88 mmol) in DCE (2 mL). The ice bath was removed after 10 min, and the reaction mixture was stirred at reflux for 14 h, cooled, and diluted with DCE (30 mL). The diluted reaction mixture was washed with saturated NaHCO3 (20 mL), dried over MgSO4, adsorbed onto silica gel and purified using silica gel chromatography eluting with a gradient of methanol in dichloromethane to afford 1-methyl-1-(2-methyl-5-pyridin-3-yl-2H-pyrazol-3-yl)-3-(2-methylsulfanyl-ethyl)-urea as a yellow gum (14 mg, 6%): 1H NMR (400 MHz, CDCl3) δ 8.99 (d, J=1.5 Hz, 1H), 8.57 (dd, J=4.8, 1.5 Hz, 1H), 8.08 (ddd, J=8.1, 2.1, 2.1 Hz, 1H), 7.34 (dd, J=7.9, 4.8 Hz, 1H), 6.52 (s, 1H), 4.88 (br t, J=5.5 Hz, 1H), 3.80 (s, 3H), 3.41 (q, J=6.3 Hz, 2H), 3.24 (s, 3H), 2.61 (t, J=6.3, 2H), 2.06 (s, 3H); ESIMS (m/z) 292.2 [M+2].

reactant | methyl-(2-methyl-5-pyridin-3-yl-2H-pyrazol-3-yl)-amine | 0.8 mmol, 150 mg | CNC=1N(N=C(C1)C=1C=NC=CC1)C | C10H12N4
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 0.88 mmol, 0.43 mL | C1(=CC=CC=C1)C | C7H8
reactant | phosgene | 1.76 mmol, 0.86 mL | C(=O)(Cl)Cl | CCl2O
reactant | 2-methylthioethylamine | 0.88 mmol, 80 mg | CSCCN | C3H9NS
solvent | DCE | 2 mL | ClCCCl | C2H4Cl2
product | 1-methyl-1-(2-methyl-5-pyridin-3-yl-2H-pyrazol-3-yl)-3-(2-methylsulfanyl-ethyl)-urea | 14 mg, 6% | CN(C(=O)NCCSC)C=1N(N=C(C1)C=1C=NC=CC1)C | C14H19N5OS
